US07351824B2
3-Fluoro-4-morpholinyl aniline (39 g) is mixed with R-epichlorohydrin (18.5 g), isopropyl alcohol (200 ml) is added and heated for 16 hours at reflux temperature. The solvent is distilled to give 57 gm of N-[3-Chloro-2-(R)-hydroxypropyl]-3-fluoro-4-morpholinyl aniline.

reactant | 3-Fluoro-4-morpholinyl aniline | 39 g | FC=1C=C(N)C=CC1N1CCOCC1 | C10H13FN2O
reactant | R-epichlorohydrin | 18.5 g | C1[C@@H](O1)CCl | C3H5ClO
solvent | isopropyl alcohol | 200 ml | C(C)(C)O | C3H8O
product | N-[3-Chloro-2-(R)-hydroxypropyl]-3-fluoro-4-morpholinyl aniline | 57 gm | ClC[C@@H](CNC1=CC(=C(C=C1)N1CCOCC1)F)O | C13H18ClFN2O2
